US07692023B2
A solution of trityl candesartan cilexetil (TCC, 30.0 g, 35.17 mmol), toluene (180 mL), methanol (180 mL), formic acid (1.6 g) and water (0.63 g) was refluxed for about 10 h (HPLC control), the solvents were evaporated at 60° C./30 mbar to give a residue as a viscous oil, (about 31 g, theoretical yield of candesartan cilexetil is 21.47 g).

reactant | trityl candesartan cilexetil | 35.17 mmol, 30.0 g | CCOC1=NC2=CC=CC(=C2N1CC3=CC=C(C=C3)C4=CC=CC=C4C5=NN=NN5C(C6=CC=CC=C6)(C7=CC=CC=C7)C8=CC=CC=C8)C(=O)OC(C)OC(=O)OC9CCCCC9 | C52H48N6O6
reactant | toluene | 180 mL | C1(=CC=CC=C1)C | C7H8
reactant | methanol | 180 mL | CO | CH4O
reactant | formic acid | 1.6 g | C(=O)O | CH2O2
solvent | water | 0.63 g | O | H2O
product | candesartan cilexetil | CCOC1=NC=2C=CC=C(C2N1CC=3C=CC(=CC3)C=4C=CC=CC4C5=NNN=N5)C(=O)OC(C)OC(=O)OC6CCCCC6 | C33H34N6O6
